US07868135B2
Preparation of N-Dodecamidoglycine
Glycine (0.40 g, 5.25 mmol) and 0.91 mL of diisopropylethylamine (5.25 mmol) were dissolved in 4 mL DMF and 6 mL water. Dodecylisocyanate (0.72 mL, 3.0 mmol) in 7 mL tetrahydrofuran was added and the mixture was stirred for 1 h at room temperature. Water (40 mL) was added and the resulting mixture was washed with ethyl acetate twice. The aqueous layer was acidified with 6N HCl, the resulting precipitate was filtered, and then dried to provide 575 mg of the title compound.

reactant | Glycine | 5.25 mmol, 0.40 g | NCC(=O)O | C2H5NO2
reactant | diisopropylethylamine | 5.25 mmol, 0.91 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Dodecylisocyanate | 3.0 mmol, 0.72 mL | C(CCCCCCCCCCC)N=C=O | C13H25NO
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | 6 mL | O | H2O
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | Water | 40 mL | O | H2O
product | N-Dodecamidoglycine | 575 mg | C(CCCCCCCCCCC)(=O)NNCC(=O)O | C14H28N2O3
